US07790903B2
Synthesis of (R)-2-[3-[N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)aminomethyl]phenoxy]butyric acid
Benzyl (R)-2-[3-[N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)aminomethyl]phenoxy]butyrate (72 mg) was dissolved in ethanol (3 mL), and a 4 N aqueous sodium hydroxide solution (0.5 mL) was added at 0° C. Then, the resulting mixture was stirred at room temperature for 1 hour. The reaction liquor was concentrated under reduced pressure, and then was dissolved in chloroform (30 mL). The solution was washed with a saturated aqueous solution of ammonium chloride and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by preparative TLC (chloroform/methanol=10/1) to obtain a colorless solid (61 mg, 100%).

reactant | Benzyl (R)-2-[3-[N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)aminomethyl]phenoxy]butyrate | 72 mg | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC=2C=C(O[C@@H](C(=O)OCC1=CC=CC=C1)CC)C=CC2 | C35H36N2O6
reactant | sodium hydroxide | 4 N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (R)-2-[3-[N-(benzoxazol-2-yl)-N-(3-(4-methoxyphenoxy)propyl)aminomethyl]phenoxy]butyric acid | 61 mg, 100% | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC=2C=C(O[C@@H](C(=O)O)CC)C=CC2 | C28H30N2O6
